US08802670B2
To a stirring solution of (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-pyrrolidin-2-ylmethyl-amine hydrochloride salt (380 mg) in dichloromethane (10 mL) was added triethylamine (0.30 mL) and methane sulfonyl chloride (71 μL). The mixture was stirred at room temperature for 2 h and then partitioned between dichloromethane (20 mL) and saturated aqueous sodium bicarbonate solution (20 mL). The organics were washed with brine (20 mL), dried, reduced in vacuo and purified by column chromatography to give (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-(1-methanesulfonyl-pyrrolidin-2-ylmethyl)-methyl-amine as an off-white solid (124 mg).

reactant | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-pyrrolidin-2-ylmethyl-amine hydrochloride salt | 380 mg | Cl.ClC=1N=C(C2=C(N1)C=C(S2)CN(CC2NCCC2)C)N2CCOCC2
reactant | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 71 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-(1-methanesulfonyl-pyrrolidin-2-ylmethyl)-methyl-amine | 124 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN(C)CC2N(CCC2)S(=O)(=O)C)N2CCOCC2 | C18H26ClN5O3S2
